US07915267B2
3′-(hydroxymethyl)biphenyl-3-carbonitrile
To a solution of 3-bromobenzonitrile (1.20 g, 6.58 mmol) in toluene (40 mL) was added a solution of tetrakistriphenylphosphinepalladium (0.38 g, 0.33 mmol), 2N aqueous sodium carbonate solution (21 mL) and [3-(hydroxymethyl)phenyl]boronic acid (1.00 g, 6.58 mmol) in EtOH (19 mL), and the mixture was heated under reflux for 10 hr under nitrogen atmosphere. The reaction mixture was cooled to room temperature, water was added, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/9→1/1) to give the title compound as a yellow oil (1.28 g, 93%).

reactant | 3-bromobenzonitrile | 6.58 mmol, 1.20 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | sodium carbonate | 2N, 21 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | [3-(hydroxymethyl)phenyl]boronic acid | 6.58 mmol, 1.00 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | water | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 19 mL | CCO | C2H6O
catalyst | tetrakistriphenylphosphinepalladium | 0.33 mmol, 0.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-(hydroxymethyl)biphenyl-3-carbonitrile | 1.28 g, 93% | OCC=1C=C(C=CC1)C1=CC(=CC=C1)C#N | C14H11NO
